US04367238
Powdered sodium cyanide (1.5 g) was added all at once to a solution of o-tolyl 2-methoxy-3-chloromethylphenyl thioether (8.3 g) in dimethyl sulfoxide (40 ml), and the mixture was stirred for 15 minutes, poured into saturated aqueous solution of sodium chloride and extracted with diethyl ether. The extract was washed with water, dried and then evaporated under reduced pressure to give oily 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile (7.7 g).

reactant | sodium cyanide | 1.5 g | [C-]#N.[Na+]
reactant | o-tolyl 2-methoxy-3-chloromethylphenyl thioether | 8.3 g | COC1=C(C=CC=C1CCl)SC=1C(=CC=CC1)C | C15H15ClOS
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(o-tolylthio)phenyl]acetonitrile | 7.7 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)C)CC#N | C16H15NOS
